US05210086
5.1. 4-[(5-Chloro-2-methoxyphenoxy)methyl]-N-(triphenylmethyl)-1-piperidinepropanamine
5.85 g (0.020 mol) of 4-[(5-chloro-2-methoxyphenoxy)methyl]piperidine hydrochloride, 8.37 g (0.022 mol) of 3-bromo-N-(triphenylmethyl)propanamine and 6.91 g (0.050 mol) of K2CO3 in 50 ml of DMF are reacted. The reaction mixture is heated to 95°-100° C. It is cooled to room temperature, poured into 150 ml of water and extracted 3 times with ethyl acetate. The organic phases are combined, washed with water, dried over MgSO4, filtered and evaporated. The product is obtained after chromatography.

reactant | 4-[(5-chloro-2-methoxyphenoxy)methyl]piperidine hydrochloride | 0.020 mol, 5.85 g | Cl.ClC=1C=CC(=C(OCC2CCNCC2)C1)OC
reactant | 3-bromo-N-(triphenylmethyl)propanamine | 0.022 mol, 8.37 g | BrCCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H22BrN
reactant | K2CO3 | 0.050 mol, 6.91 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 150 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-[(5-Chloro-2-methoxyphenoxy)methyl]-N-(triphenylmethyl)-1-piperidinepropanamine | ClC=1C=CC(=C(OCC2CCN(CC2)CCCNC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)OC | C35H39ClN2O2
